Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
speech difficulties
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old R-handed woman with no PMHx who presents
with difficulty using the right words.  She reports that she 
woke
up yesterday morning and couldn't think of her nephew's last 
name
in her head, but didn't make much of it.  She was by herself and
not talking to anyone all day so she didn't notice any issues. 
Then she was able to tell her son she was going to sleep because
she was tired.  When she woke up today (___) she noticed that
she couldn't get out the right words when she was talking and 
she
felt it was worse than the day prior.  For example, she was
trying to say she wanted to watch Big Bang Theory and was saying
Blag Bag Theory.  She went to ___ at 2:30pm where
they did a ___ which showed a left parietal bleed and she was
sent to ___ for neurosurgical evaluation.  When here, NSG
determine the bleed was non-surgical and neurology was 
consulted.
 
On neuro ROS, the pt reports difficulty producing and slightly
also understanding speech, but denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
none
 
Social History:
___
Family History:
sister and father diagnosed with Alzheimer's in his
___. 
 
Physical Exam:
Physical Exam: 
Vitals: T: 99.2  P: 84  R: 16  BP:138/84  SaO2: 99% on RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Knows she is in ___, thought she was at
___, knew the year, month and date.  Able to relate history
without difficulty.  Attentive, able to ___ backward without
difficulty.  Language is fluent (can say 7 words in a row, but
language is halting) with intact repetition and comprehension 
(if
things are repeated sometimes).  Normal prosody.  There were
numerous paraphasic errors.  Pt. was unable to name any of the
___ words, but could describe what they were used for if given
ample time.  Able to read without difficulty.  Speech was not
dysarthric. Able to follow both midline and appendicular
commands. The pt. had good knowledge of current events.  There
was no evidence of apraxia or neglect.
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to wiggling. Funduscopic exam
revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1
Plantar response was flexor bilaterally.
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.
 
-Gait: Deferred 

 
Pertinent Results:
CT Head:
TECHNIQUE:  MDCT axial images of the brain were obtained without 
intravenous contrast.  Bone and soft tissue algorithms were 
reviewed.  Coronal and sagittal reformations were prepared. 
  
NON-CONTRAST HEAD CT:  Known intraparenchymal hemorrhage within 
the posterior left parietal lobe measures 1.1 x 1.7 cm as 
compared to 0.9 x 1.5 cm previously.  Surrounding vasogenic 
edema appears similar in extent.  There is local sulcal 
effacement, though no other significant mass effect.  No 
additional areas of hemorrhage are identified.  Periventricular 
hypoattenuation is similar to prior examinations and is 
consistent with chronic small vessel ischemic changes.  
Subcentimeter hypodensities within the left basal ganglia are 
unchanged and are likely due to a prior lacunar infarct (2:14).  
Moderate proportion enlargement of ventricles and sulci is 
consistent with age-related cortical atrophy.  There is no shift 
of the usually midline structures.  Suprasellar and basilar 
cisterns are widely patent.  There is no scalp hematoma or acute 
skull fracture.  The visualized paranasal sinuses and mastoid 
air cells are well aerated. 
  
IMPRESSION:  Minimal interval increase in size of known left 
parietal 
intraparenchymal hemorrhage.  No subfalcine or transtentorial 
herniation.

MRI/MRA head:
TECHNIQUE:  Multiplanar, multi sequence MR images of the head 
were obtained 
before and after the administration of intravenous contrast.  MR 
angiogram of 
the head was obtained using a 3D time-of-flight technique.  MR 
angiogram 
images of the neck was obtained with the 2D time-of-flight 
technique and 3D 
post contrast imaging. 
  
COMPARISON:  CT head without contrast ___. 
  
FINDINGS: 
  
MRI head:  Again seen is an approximately 1.4 cm subacute 
hemorrhage within the left temporal lobe with mild surrounding 
edema.  No appreciable contrast enhancement is present at the 
site of hemorrhage.  No other acute intraparenchymal hemorrhage 
is identified.  There are, however, a few scattered foci of GRE 
hypointensity within the right temporal lobe, left parietal lobe 
and the left basal ganglia.  There is no acute infarct.  A 
chronic lacunar infarct is noted within the left basal ganglia.  
There are patchy and confluent regions of T2 and FLAIR 
prolongation within the periventricular and subcortical white 
matter which most likely represent the sequelae of chronic small 
vessel ischemic disease.  Mild diffuse cerebral atrophy is 
present with commensurate dilatation of the ventricles and 
widening of the cortical sulci.  There is no abnormal 
enhancement.   
  
MRA head:  There is no evidence for arteriovenous malformation 
or aneurysm. A focal signal dropout is present at the distal 
left M1 segment, likely secondary to focal high grade stenosis.  
There is irregularity and narrowing of the left P1 segment. The 
major intracranial vessels are otherwise patent. There is fetal 
origin of the right posterior cerebral artery.  The right A-1 
segment is absent and both A-2 segments arise from a large left 
A-1 segment. 
  
MRA neck:  There is a common origin for the right 
brachiocephalic and left common carotid artery from the aortic 
arch.  The vertebral arteries are patent.  The bilateral common 
carotid, internal carotid and external carotid arteries are 
patent.  There is no evidence for significant stenosis. 
  
IMPRESSION: 
  
Subacute hematoma in the left temporal lobe.  There is no 
evidence for 
vascular malformation.  Followup MRI after resolution of the 
hemorrhage is recommended. 
  
In addition to the left temporal lobe hemorrhage, there are 
three chronic 
micro hemorrhages, but no classic MR findings for amyloid. 
  
Focal high grade stenosis of the left middle cerebral artery and 
stenosis of the left proximal posterior cerebral artery. 
  
Atrophy and white matter signal changes most consistent with 
chronic small vessel ischemic disease. 

Follow up CT head:

TECHNIQUE:  Contiguous axial MDCT images were obtained through 
the brain 
without administration of IV contrast material.  Coronal and 
sagittal and 
thin-section bone algorithm reconstructed images were obtained. 
  
COMPARISON:  MRI of the brain from ___ and 
non-enhanced CT of the head from ___. 
  
FINDINGS:   
A left posterior parietal lobe hemorrhage measuring 1.7 x 1.2 
cm, with mild associated edema, is unchanged from ___ (2:15).  There is associated mild effacement of the 
posterior horn of the left lateral 
ventricle, unchanged.  A chronic infarct is again noted in the 
anterior limb of the left internal capsule (2:14).  Subcortical, 
deep white matter and periventricular hypodensities are again 
seen, likely sequela of chronic small vessel ischemic disease.  
No fractures are identified. The visualized paranasal sinuses 
and mastoid air cells are clear. 
  
IMPRESSION: 
No change in left parietal lobe hemorrhage. 

 
Brief Hospital Course:
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

Hospital Course:

Ms. ___ was transferred to ___ neurology stroke service for 
further evaluation and treatment of her left parietal 
intraparenchymal hemorrhage seen on CT at the OSH. Etiology is 
likely amyloid angiopathy as multiple small microhemorrhages 
were seen on MRI and the patient does not have a history of 
hypertension. No underlying vascular abnormality or mass was 
seen on imaging in the area of the hemorrhage. Repeat CT scan on 
day 3 of admission showed no expansion of the hemorrhage. The 
patient's aphasia improved somewhat before discharge, but she 
continued to have a severe anomia and some paraphasic errors. 
She was seen by speech therapy, physical therapy and 
occupational therapy all of whom recommended outpatient 
treatment. She was discharged on 5mg of lisinopril with plans to 
follow up with vascular neurology and primary care.

TSH was noted to be elevated at 4.3. Free and total T4 levels 
could not be collected prior to discharge. Thyroid issues should 
be addressed at time of outpatient follow up.
 
Medications on Admission:
none
 
Discharge Medications:
1. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2
2. Outpatient Occupational Therapy
3. Outpatient Physical Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left parietal intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the stroke service at ___ for a 
hemorrhagic stroke which caused you to have some problems with 
language. The bleed did not grow in size and is now stable. Your 
symptoms should continue to improve over the next few months.

We made the following changes to your medications:

It was a pleasure taking care of you during this hospital stay.

Please follow up with Dr. ___ as below.

If you experience any of the below danger signs, please present 
immediately to the nearest emergency department or call ___ and ask for the neurologist on call.
 
Followup Instructions:
___